US03971819
B. 4-anilino-3-benzylamino-5-phenylsulphamyl-benzoic acid
Ethyl 4-anilino-3-benzylamino-5-phenylsulphamyl-benzoate (3 g) was dissolved in 1N sodium hydroxide (35 ml), and the solution was heated on a steam bath for 1 hour. After cooling, the reaction mixture was adjusted to a pH of 2.5 by addition of 4N hydrochloric acid. The precipitated 4-anilino-3-benzylamino-5-phenylxulphamyl-benzoic acid was collected by suction and recrystallized from acetone/water. The compound was obtained with a melting point of 243°C.

reactant | Ethyl 4-anilino-3-benzylamino-5-phenylsulphamyl-benzoate | 3 g | N(C1=CC=CC=C1)C1=C(C=C(C(=O)OCC)C=C1S(NC1=CC=CC=C1)(=O)=O)NCC1=CC=CC=C1 | C28H27N3O4S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | sodium hydroxide | 1N, 35 ml | [OH-].[Na+]
product | 4-anilino-3-benzylamino-5-phenylsulphamyl-benzoic acid | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(NC1=CC=CC=C1)(=O)=O)NCC1=CC=CC=C1 | C26H23N3O4S
